US03931250
52.5 g of aluminum trichloride were progressively added to 200 ml of anhydrous diethyl ether, followed by 7.5 g of lithium-aluminum hydride. The above mixture was then cooled to 0° and 35 g of crude 1-(5-methyl-fur-2-yl)-1-(5-methyl-5-vinyl-tetrahydrofur-2-yl)-ethanol -- see letter (a) -- were then added dropwise, under vigourous stirring. 30 min. after addition of the reactants, the obtained mixture was poured onto crushed ice and the organic layer extracted with ether, washed with a saturated aqueous solution of NaHCO3, then dried and evaporated in accordance with the usual techniques, to afford 28.9 g of raw material. The thus obtained residue was finally purified by means of a column chromatography (Silicagel - hexane/ether 9:1) followed by a fractional distillation, b.p. 49°-51°/0.001 Torr, of the eluate. 14.7 g (54%) of 1-(5-methyl-fur-2-yl)-1-(5-methyl-5-vinyl-tetra-hydrofur-2-yl-)-ethane were thus isolated, as a mixture of 4 isomers according to a vapor phase chromatography analysis (CARBOWAX 20 M - 5m -- ca. 200°C.

reactant | aluminum trichloride | 52.5 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | lithium-aluminum hydride | 7.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(5-methyl-fur-2-yl)-1-(5-methyl-5-vinyl-tetrahydrofur-2-yl)-ethanol | 35 g | CC1=CC=C(O1)C(C)(O)C1OC(CC1)(C=C)C | C14H20O3
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 1-(5-methyl-fur-2-yl)-1-(5-methyl-5-vinyl-tetra-hydrofur-2-yl-)-ethane | 14.7 g, 54% | CC1=CC=C(O1)C(C)C1OC(CC1)(C=C)C | C14H20O2
